US09102688B2
3-Chloro-2-methyl-N-quinolin-8-yl-benzenesulfonamide (Example Compound 68)
In a similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.7 mmol), 2-methyl-3-chlorobenzenesulfonyl chloride (180 mg, 0.8 mmol) and DMAP (cat.) gave the title compound (150 mg, 65%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 0.7 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 2-methyl-3-chlorobenzenesulfonyl chloride | 0.8 mmol, 180 mg | CC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C7H6Cl2O2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-Chloro-2-methyl-N-quinolin-8-yl-benzenesulfonamide | 150 mg, 65% | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1C=CC=C2C=CC=NC12)C | C16H13ClN2O2S
